US08404678B2
To a solution of 1-(2-(tert-butoxycarbonyl)-methylamino-ethoxy)-3,5-bis-(tert-butyl-dimethyl-silyloxy methyl)-benzene (590 mg) in dioxane (4 mL) was added a solution of hydrochloric acid 4N in dioxane (3.3 mL). After 15 h at rt, the resulting solid was filtered, washed with dioxane and dried in vacuo to give 3,5-bis-hydroxymethyl-(2-methylamino-ethoxy)-benzene hydrochloride (240 mg) as a white powder. LC/MS (Method A2): ES: m/z 212 (M+H)+; RT=0.14 min

reactant | 1-(2-(tert-butoxycarbonyl)-methylamino-ethoxy)-3,5-bis-(tert-butyl-dimethyl-silyloxy methyl)-benzene | 590 mg | C(C)(C)(C)OC(=O)C(COC1=CC(=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)C(O[SiH2]C(C)(C)C)(C)C)NC | C28H53NO5Si2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.3 mL | O1CCOCC1 | C4H8O2
product | 3,5-bis-hydroxymethyl-(2-methylamino-ethoxy)-benzene hydrochloride | 240 mg | Cl.OCC=1C=C(C=C(C1)CO)OCCNC | InChI=1S/C11H17NO3.ClH/c1-12-2-3-15-11-5-9(7-13)4-10(6-11)8-14;/h4-6,12-14H,2-3,7-8H2,1H3;1H
